* source EXERCISE3
V_V1         N00503 0 {Vsupply}
R_R5         VB_VARIABLE V-_VARIABLE R_R5 {Rcommon} TC=0,0 
.model        R_R5 RES R=1 DEV=10% TC1=0 TC2=0
R_R4         0 VB_VARIABLE R_R4 {Rcommon} TC=0,0 
.model        R_R4 RES R=1 DEV=10% TC1=0 TC2=0
R_R6         VB_VARIABLE VA_VARIABLE R_R6 {R6} TC=0,0 
.model        R_R6 RES R=1 DEV=10% TC1=0 TC2=0
R_R3         VA_VARIABLE V+_VARIABLE R_R3 {Rcommon} TC=0,0 
.model        R_R3 RES R=1 DEV=10% TC1=0 TC2=0
R_RL         V-_VARIABLE V+_VARIABLE R_RL {RL} TC=0,0 
.model        R_RL RES R=1 DEV=10% TC1=0 TC2=0
R_R1         N00503 V+_VARIABLE R_R1 {Rcommon} TC=0,0 
.model        R_R1 RES R=1 DEV=10% TC1=0 TC2=0
R_R2         N00503 VA_VARIABLE R_R2 {Rcommon} TC=0,0 
.model        R_R2 RES R=1 DEV=10% TC1=0 TC2=0
R_R10         VB_VOC VA_VOC R_R10 {R6} TC=0,0 
.model        R_R10 RES R=1 DEV=10% TC1=0 TC2=0
R_R11         0 VB_VOC R_R11 {Rcommon} TC=0,0 
.model        R_R11 RES R=1 DEV=10% TC1=0 TC2=0
R_R7         N01646 V+_VOC R_R7 {Rcommon} TC=0,0 
.model        R_R7 RES R=1 DEV=10% TC1=0 TC2=0
R_R8         N01646 VA_VOC R_R8 {Rcommon} TC=0,0 
.model        R_R8 RES R=1 DEV=10% TC1=0 TC2=0
R_R9         VA_VOC V+_VOC R_R9 {Rcommon} TC=0,0 
.model        R_R9 RES R=1 DEV=10% TC1=0 TC2=0
V_V2         N01646 0 {Vsupply}
R_R17         0 VB_ISC R_R17 {Rcommon} TC=0,0 
.model        R_R17 RES R=1 DEV=10% TC1=0 TC2=0
R_R16         VB_ISC VA_ISC R_R16 {R6} TC=0,0 
.model        R_R16 RES R=1 DEV=10% TC1=0 TC2=0
R_R15         VA_ISC V+_ISC R_R15 {Rcommon} TC=0,0 
.model        R_R15 RES R=1 DEV=10% TC1=0 TC2=0
R_R14         N02338 VA_ISC R_R14 {Rcommon} TC=0,0 
.model        R_R14 RES R=1 DEV=10% TC1=0 TC2=0
R_R13         N02338 V+_ISC R_R13 {Rcommon} TC=0,0 
.model        R_R13 RES R=1 DEV=10% TC1=0 TC2=0
R_R18         VB_ISC V+_ISC R_R18 {Rcommon} TC=0,0 
.model        R_R18 RES R=1 DEV=10% TC1=0 TC2=0
V_V3         N02338 0 {Vsupply}
R_R20         0 VA_TEST R_R20 {Rcommon} TC=0,0 
.model        R_R20 RES R=1 DEV=10% TC1=0 TC2=0
R_R21         VA_TEST V+_TEST R_R21 {Rcommon} TC=0,0 
.model        R_R21 RES R=1 DEV=10% TC1=0 TC2=0
R_R24         VB_TEST V-_TEST R_R24 {Rcommon} TC=0,0 
.model        R_R24 RES R=1 DEV=10% TC1=0 TC2=0
R_R23         0 VB_TEST R_R23 {Rcommon} TC=0,0 
.model        R_R23 RES R=1 DEV=10% TC1=0 TC2=0
R_R22         VB_TEST VA_TEST R_R22 {R6} TC=0,0 
.model        R_R22 RES R=1 DEV=10% TC1=0 TC2=0
R_R19         0 V+_TEST R_R19 {Rcommon} TC=0,0 
.model        R_R19 RES R=1 DEV=10% TC1=0 TC2=0
V_V4         V+_TEST V-_TEST 1
.PARAM  r6=10k vsupply=12 rl=5.6k rcommon=1k
