* source LAB4
V_V1         POSSUPPLY 0 {Vsupply}
V_V2         0 NEGSUPPLY {Vsupply}
X_U1         N00878 VINNON POSSUPPLY NEGSUPPLY VININV uA741
R_Rin         0 VINNON R_Rin {Rin} TC=0,0 
.model        R_Rin RES R=1 DEV=10% TC1=0 TC2=0
R_RfNonInvert         VINNON VININV R_RfNonInvert {RfNoninverting} TC=0,0 
.model        R_RfNonInvert RES R=1 DEV=10% TC1=0 TC2=0
R_Rin1         VININV N00580 R_Rin1 {Rin} TC=0,0 
.model        R_Rin1 RES R=1 DEV=10% TC1=0 TC2=0
X_U2         0 N00580 POSSUPPLY NEGSUPPLY VOUTINV uA741
R_RfInvert         N00580 VOUTINV R_RfInvert {RfInverting} TC=0,0 
.model        R_RfInvert RES R=1 DEV=10% TC1=0 TC2=0
V_V4         N00878 0  
+SIN 0 0.5 {Freq} 0 0 0
.PARAM  vsupply=20 freq=1k rfinverting=4k rfnoninverting=3k rin=1k
