* source LARSON_LAB1
R_R1         N00187 VA R_R1 5.6k TC=0,0 
.model        R_R1 RES R=1 DEV=10% TC1=0 TC2=0
R_R2         VA VB R_R2 5.6k TC=0,0 
.model        R_R2 RES R=1 DEV=10% TC1=0 TC2=0
V_V1         N00187 0 5Vdc
R_RL         0 VB R_RL 1k TC=0,0 
.model        R_RL RES R=1 DEV=10% TC1=0 TC2=0
